US04268510
Anthranilamide hydrochloride (63.5 g.) was heated under reflux with anhydrous chloral (650 ml.) for three hours. The resulting solution was evaporated to dryness, and the residue was triturated with toluene (700 ml.) to give a yellow product containing one mole of chloral. This was removed by boiling the product with methanol (2 l.) for 15 minutes, cooling the solution and filtering. The filtrate was concentrated to half its volume, and allowed to cool, to produce 1,2-dihydro-2-trichloromethylquinazolin-4-one, m.p. 201°-202° C.

reactant | Anthranilamide hydrochloride | 63.5 g | Cl.C(C=1C(N)=CC=CC1)(=O)N
reactant | chloral | 650 ml | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | chloral | one mole | O=CC(Cl)(Cl)Cl | C2HCl3O
product | 1,2-dihydro-2-trichloromethylquinazolin-4-one | ClC(C1NC2=CC=CC=C2C(N1)=O)(Cl)Cl | C9H7Cl3N2O
